US07368579B2
2-Chloro-4,5-diiodoimidazole (354 mg) was suspended in concentrated nitric acid (d. 1.42)(5 ml), under ice-cooling, concentrated sulfuric acid (1 ml) was added, and was stirred at a room temperature for 15 hours. Reaction mixture was poured in ice-water, and ammonia water was added to adjust pH 3, the deposited matters were collected by filtration and dried, there was obtained 2-chloro-5-iodo-4-nitroimidazole (222 mg, yield: 81.2%) as yellow solid product.

reactant | 2-Chloro-4,5-diiodoimidazole | 354 mg | ClC=1NC(=C(N1)I)I | C3HClI2N2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia water | O.N
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
product | 2-chloro-5-iodo-4-nitroimidazole | 222 mg, yield: 81.2% | ClC=1NC(=C(N1)[N+](=O)[O-])I | C3HClIN3O2
